US07312234B2
AMD9578: Preparation of 3-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-N-pyridin-2-ylmethyl-benzenesulfonamide (hydrobromide salt)
Using general procedure B: Reaction of 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-2-carbaldehyde (192 mg, 0.70 mmol), N-Pyridin-2-ylmethyl-3-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzenesulfonamide (284 mg, 0.70 mmol), acetic acid (0.2 mL) and sodium triacetoxyborohydride (442 mg, 2.08 mmol) in THF (7 mL) at room temperature under N2 for 40 min., followed by purification of the crude material by chromatography on silica gel (1:1:98 CH3OH—NH3H2O—CH2Cl2,), afforded the title compound (177 mg, 38%) as a white foam.

reactant | 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-2-carbaldehyde | 0.70 mmol, 192 mg | C[Si](CCOCN1C(=NC2=C1C=CC=C2)C=O)(C)C | C14H20N2O2Si
reactant | N-Pyridin-2-ylmethyl-3-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzenesulfonamide | 0.70 mmol, 284 mg | N1=C(C=CC=C1)CNS(=O)(=O)C1=CC(=CC=C1)CNC1CCCC=2C=CC=NC12 | C22H24N4O2S
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.08 mmol, 442 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 3-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-N-pyridin-2-ylmethyl-benzenesulfonamide | 177 mg, 38% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC=2C=C(C=CC2)S(=O)(=O)NCC2=NC=CC=C2 | C30H30N6O2S
